US07572820B2
A. N-(3-Chloro-2-methylphenyl)acetamide
A solution of 3-chloro-2-methylaniline (9.0 g, 63.56 mmol) in EtOH (75 mL) was treated with acetic anhydride (7.2 mL, 76.31 mmol) and the resulting mixture was stirred at rt for 3 h. Concentration was followed by crystallization from hexanes/EtOAc (1:3) to afford 11.2 g of the title compound: 1H NMR (300 MHz, DMSO-d6) δ 9.52 (s, 1H), 7.30-7.23 (m, 2H), 7.17-7.13 (m, 1H), 2.18 (s, 3H), 2.06 (s, 3H).

reactant | 3-chloro-2-methylaniline | 63.56 mmol, 9.0 g | ClC=1C(=C(N)C=CC1)C | C7H8ClN
reactant | acetic anhydride | 76.31 mmol, 7.2 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | EtOH | 75 mL | CCO | C2H6O
product | N-(3-Chloro-2-methylphenyl)acetamide | 11.2 g | ClC=1C(=C(C=CC1)NC(C)=O)C | C9H10ClNO
